US06359145B1
Trimethylsulfoxonium iodide (1.22 g) was added to a stirred suspension of sodium hydride (60% in mineral oil, 234 mg) in dimethylsulfoxide (12 ml) and dimethoxyethane (10 ml) at −3° C. to −4° C. under nitrogen atmosphere. After 10 minutes, a solution of (S)-2-(benzyloxy)propionaldehyde (obtained in Preparation 8) (800 mg) in dimethoxyethane (2 ml) was added dropwise to the mixture for a period of 5 minutes at the same temperature, and the resulting mixture was stirred for 30 minutes at room temperature. The mixture was poured into a cold saturated ammonium chloride solution (50 ml) and extracted with ethyl acetate (100 ml). The organic layer was washed with brine (50 ml), dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel (20 g) chromatography eluted with hexane/ethyl acetate (30:1) to give (3S)-3-benzyloxy-1,2-epoxybutane (507 mg).

reactant | Trimethylsulfoxonium iodide | 1.22 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 234 mg | [H-].[Na+]
reactant | (S)-2-(benzyloxy)propionaldehyde | 800 mg | C(C1=CC=CC=C1)O[C@H](C=O)C | C10H12O2
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 2 ml | C(OC)COC | C4H10O2
product | (3S)-3-benzyloxy-1,2-epoxybutane | 507 mg | C(C1=CC=CC=C1)O[C@H](C1CO1)C | C11H14O2
